US07420001B2
N-({4′-[(1-benzofuran-2-ylcarbonyl)amino]-1,1′-biphenyl-4-yl}sulfonyl)glycine t-butyl ester (75 mg) was dissolved in a 95% solution of TFA in methylene chloride (5 mL). The solution was stirred at room temperature for 4 h and the solvent was removed under vacuum. The crude product was triturated with hexane/ethyl acetate (95:5) three times. The product was lyophilized with benzene to give 56 mg of N-({4′-[(1-benzofuran-2-ylcarbonyl)amino]-1,1′-biphenyl-4-yl}sulfonyl)glycine. LCMS MH+ (m/z) 451. 1H NMR (300 MHz, DMSO-d6): δ 10.54 ppm (s, 1H), 7.95-7.54 ppm (m, 11H), 7.34 ppm (dd, 1H, J1=7.5 Hz, J2=7.5 Hz), 7.20 ppm (dd, 1H, J1=7.5 Hz, J2=7.5 Hz), 3.42 ppm (d, 2H J=6.3 Hz).

reactant | N-({4′-[(1-benzofuran-2-ylcarbonyl)amino]-1,1′-biphenyl-4-yl}sulfonyl)glycine t-butyl ester | 75 mg | C(C)(C)(C)OC(CNS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)NC(=O)C=1OC2=C(C1)C=CC=C2)=O | C27H26N2O6S
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
product | N-({4′-[(1-benzofuran-2-ylcarbonyl)amino]-1,1′-biphenyl-4-yl}sulfonyl)glycine | 56 mg | O1C(=CC2=C1C=CC=C2)C(=O)NC2=CC=C(C=C2)C2=CC=C(C=C2)S(=O)(=O)NCC(=O)O | C23H18N2O6S
